US07807829B2
A 12 L round-bottomed flask was equipped with an overhead stirrer, thermocouple, N2 inlet, and an addition funnel. The vessel was charged with dibenzyl phosphate (762 g) and isopropyl acetate (3 L). The slurry was cooled to 3±3° C. and then the 1.08 M dicyclohexylcarbodiimide (DCC) solution (1.30 L) was added via the addition funnel while maintaining the batch temperature at 3±3° C. Typical addition times were between 25-35 minutes and the reaction was typically complete within 30 minutes. The cold slurry was filtered and the dicyclohexylurea waste cake was rinsed (agitated) with isopropyl acetate (3×600 mL). The filtrate and rinses were combined and concentrated in vacuo to a final volume of 1.5 L. The batch was transferred to a 12 round-bottomed flask that was equipped with an overhead stirrer, thermocouple, N2 inlet, and an addition funnel. The batch was diluted with heptane (500 mL) and seeded with 1 mol % of tetrabenzyl pyrophosphate (8 g) to form a seed bed. Heptane (4.0 L) was then added to the stirred slurry at room temperature over 30 minutes. The batch was then cooled to 3±3° C. and aged for 1 hour. The slurry was filtered and the filter cake washed with 20% isopropyl acetate/heptane (3×500 mL). The product cake was dried in vacuo and under a blanket of nitrogen overnight at room lemperature. Tetrabenzylpyrophosphate was isolated (671 g, 1.25 mol, after correcting for seed) as a white crystalline solid (91% adjusted yield) which was stored in a freezer.

reactant | dibenzyl phosphate | 762 g | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | isopropyl acetate | 3 L | C(C)(=O)OC(C)C | C5H10O2
reactant | dicyclohexylcarbodiimide | 1.08 M, 1.30 L | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | Heptane | 4.0 L | CCCCCCC | C7H16
product | Tetrabenzylpyrophosphate | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H28O7P2
